* /home/sumanto/desktop/verilog/esim/i2c/i2c.cir

* u4  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ ? ? ? ? ? ? ? ? ? ? ? ? ? ? i2c_master_top
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ counter3bit
* u2  net-_u1-pad1_ net-_u1-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ counter8bit
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u1-pad1_ net-_u1-pad2_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ adc_bridge_7
v4  net-_u3-pad4_ gnd pulse(0 5 1 0.1n 0.1n 5 10)
v5  net-_u3-pad5_ gnd pulse(0 5 1 0.1n 0.1n 1 2)
v6  net-_u3-pad6_ gnd pulse(5 0 3 0.1n 0.1n 3 6)
v7  net-_u3-pad7_ gnd pulse(5 0 0 0.1n 0.1n 6 12)
v3  net-_u3-pad3_ gnd pulse(0 5 1 0.1n 0.1n 1 5)
v2  net-_u3-pad2_ gnd pulse(0 5 1 0.1n 0.1n 1 1000)
v1  net-_u3-pad1_ gnd pulse(5 0 0.1n 0.1n 0.1n 1 2)
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ ] [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ ] [net-_u3-pad10_ ] [net-_u3-pad11_ ] [net-_u3-pad12_ ] [net-_u3-pad13_ ] [net-_u3-pad14_ ] [? ? ? ? ? ? ? ? ] [? ] [? ] [? ] [? ] [? ] [? ] u4
a2 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ ] u1
a3 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ ] u2
a4 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ ] [net-_u1-pad1_ net-_u1-pad2_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ ] u3
* Schematic Name:                             i2c_master_top, NgSpice Name: i2c_master_top
.model u4 i2c_master_top(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             counter3bit, NgSpice Name: counter3bit
.model u1 counter3bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             counter8bit, NgSpice Name: counter8bit
.model u2 counter8bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_7, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.1e-00 60e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
