* /home/sumanto/desktop/verilog/esim/intel_state_machine/intel_state_machine.cir

* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ state_machine
* u6  net-_u2-pad4_ net-_u2-pad5_ dout1 dout0 dac_bridge_2
* u5  clk data_in reset net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ adc_bridge_3
* u1  clk plot_v1
* u3  data_in plot_v1
* u4  reset plot_v1
* u7  dout1 plot_v1
* u8  dout0 plot_v1
v1  clk gnd pulse(0 5 0.1u 0.1u 0.1u 1m 2m)
v2  data_in gnd pulse(0 5  1u 0.1u 0.1u 5m 7m)
v3  reset gnd pulse(0 5 0.1u 0.1u 0.1u 10m 1000m)
a1 [net-_u2-pad1_ ] [net-_u2-pad2_ ] [net-_u2-pad3_ ] [net-_u2-pad4_ net-_u2-pad5_ ] u2
a2 [net-_u2-pad4_ net-_u2-pad5_ ] [dout1 dout0 ] u6
a3 [clk data_in reset ] [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ ] u5
* Schematic Name:                             state_machine, NgSpice Name: state_machine
.model u2 state_machine(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk) v(data_in)+6 v(reset)+12 v(dout1)+18 v(dout0)+24
.endc
.end
