* /home/sumanto/desktop/verilog/esim/interruptcontroller/interruptcontroller.cir

* u3  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ net-_u10-pad9_ net-_u10-pad10_ counter8bit
v1  clk gnd pulse(0 5 0.1n 0.1n 0.1n 1 2)
v2  rst gnd pulse(0 5 0.1n 0.1n 0.1n 1 1000)
v3  intr_in gnd pulse(0 5 0.1n 0.1n 0.1n 5 10)
* u5  clk rst intr_in net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad19_ adc_bridge_3
* u1  clk plot_v1
* u2  rst plot_v1
* u4  intr_in plot_v1
* u7  net-_u10-pad20_ net-_u10-pad21_ intr_out busoe dac_bridge_2
* u8  intr_out plot_v1
* u9  busoe plot_v1
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ net-_u10-pad16_ net-_u10-pad17_ net-_u10-pad18_ net-_u10-pad19_ net-_u10-pad20_ net-_u10-pad21_ intr_cntrl
* u6  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ net-_u10-pad16_ net-_u10-pad17_ net-_u10-pad18_ counter8bit
a1 [net-_u10-pad1_ ] [net-_u10-pad2_ ] [net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ net-_u10-pad9_ net-_u10-pad10_ ] u3
a2 [clk rst intr_in ] [net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad19_ ] u5
a3 [net-_u10-pad20_ net-_u10-pad21_ ] [intr_out busoe ] u7
a4 [net-_u10-pad1_ ] [net-_u10-pad2_ ] [net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ net-_u10-pad9_ net-_u10-pad10_ ] [net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ net-_u10-pad16_ net-_u10-pad17_ net-_u10-pad18_ ] [net-_u10-pad19_ ] [net-_u10-pad20_ ] [net-_u10-pad21_ ] u10
a5 [net-_u10-pad1_ ] [net-_u10-pad2_ ] [net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ net-_u10-pad16_ net-_u10-pad17_ net-_u10-pad18_ ] u6
* Schematic Name:                             counter8bit, NgSpice Name: counter8bit
.model u3 counter8bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             intr_cntrl, NgSpice Name: intr_cntrl
.model u10 intr_cntrl(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             counter8bit, NgSpice Name: counter8bit
.model u6 counter8bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.1e-00 100e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk) v(rst)+6 v(intr_in)+12 v(intr_out)+24 v(busoe)+30
.endc
.end
