* /home/sumanto/desktop/verilog/esim/ledmaker/ledmaker.cir

* u5  net-_u1-pad35_ net-_u1-pad36_ passed failed dac_bridge_2
* u4  clk reset net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
v1  clk gnd pulse(0 5 0.1n 0.1n 0.1n 5m 10m)
v2  reset gnd pulse(0 5 0.1n 0.1n 0.1n 1m 1000)
* u2  clk plot_v1
* u3  reset plot_v1
* u6  passed plot_v1
* u7  failed plot_v1
* u9  count0 plot_v1
* u10  net-_u1-pad34_ count0 dac_bridge_1
* u8  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ net-_u1-pad33_ net-_u1-pad34_ counter32bit
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ net-_u1-pad33_ net-_u1-pad34_ net-_u1-pad35_ net-_u1-pad36_ ledmaker
a1 [net-_u1-pad35_ net-_u1-pad36_ ] [passed failed ] u5
a2 [clk reset ] [net-_u1-pad1_ net-_u1-pad2_ ] u4
a3 [net-_u1-pad34_ ] [count0 ] u10
a4 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ net-_u1-pad33_ net-_u1-pad34_ ] u8
a5 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ net-_u1-pad33_ net-_u1-pad34_ ] [net-_u1-pad35_ ] [net-_u1-pad36_ ] u1
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u10 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             counter32bit, NgSpice Name: counter32bit
.model u8 counter32bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             ledmaker, NgSpice Name: ledmaker
.model u1 ledmaker(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 100e-06 500e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk)
plot v(reset)
plot v(passed)
plot v(failed)
plot v(count0)
.endc
.end
