* /home/sumanto/desktop/verilog/esim/cam/cam.cir

* u3  net-_u1-pad1_ net-_u2-pad4_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u3-pad19_ ? ? ? ? ? ? ? ? cam
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ counter16bit
v1  cam_enable gnd pulse(0 5 1 0.1n 0.1n 1 2)
v2  clk gnd pulse(5 0 0.1n 0.1n 0.1n 1 2)
v3  rst gnd pulse(0 5 0.1n 0.1n 0.1n 1 10000)
* u2  cam_enable clk rst net-_u2-pad4_ net-_u1-pad1_ net-_u1-pad2_ adc_bridge_3
* u7  net-_u3-pad19_ cam_hit_out dac_bridge_1
* u9  cam_hit_out plot_v1
* u4  cam_enable plot_v1
* u5  clk plot_v1
* u6  rst plot_v1
a1 [net-_u1-pad1_ ] [net-_u2-pad4_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ ] [net-_u3-pad19_ ] [? ? ? ? ? ? ? ? ] u3
a2 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ ] u1
a3 [cam_enable clk rst ] [net-_u2-pad4_ net-_u1-pad1_ net-_u1-pad2_ ] u2
a4 [net-_u3-pad19_ ] [cam_hit_out ] u7
* Schematic Name:                             cam, NgSpice Name: cam
.model u3 cam(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             counter16bit, NgSpice Name: counter16bit
.model u1 counter16bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-00 200e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(cam_hit_out)
plot v(cam_enable)
plot v(clk)
plot v(rst)
.endc
.end
