* /home/sumanto/desktop/verilog/esim/parallel_crc/parallel_crc.cir

* u3  net-_u1-pad1_ net-_u1-pad2_ net-_u2-pad5_ net-_u2-pad6_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? parallel_crc
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ counter8bit
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u1-pad1_ net-_u1-pad2_ adc_bridge_4
v1  net-_u2-pad1_ gnd pulse(5 0 1m 0.1n 0.1n 1m 1000m)
v2  net-_u2-pad2_ gnd pulse(0 5 1m 0.1n 0.1n 1m 1000m)
v3  net-_u2-pad3_ gnd pulse(0 5 0.1n 0.1n 0.1n 1m 2m)
v4  net-_u2-pad4_ gnd pulse(0 5 0.1n 0.1n 0.1n 1m 1000m)
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u2-pad5_ ] [net-_u2-pad6_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ ] [? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ? ] u3
a2 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ ] u1
a3 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ ] [net-_u2-pad5_ net-_u2-pad6_ net-_u1-pad1_ net-_u1-pad2_ ] u2
* Schematic Name:                             parallel_crc, NgSpice Name: parallel_crc
.model u3 parallel_crc(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             counter8bit, NgSpice Name: counter8bit
.model u1 counter8bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.1e-03 10e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
